US07465815B2
3-(4-Isopropyl-2-methoxyphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran
Using 3-(4-isopropyl-2-methoxyphenyl)-4,6,7-trimethyl-1-benzofuran obtained in Reference Example 188, the title compound was synthesized in the same manner as in Reference Example 199. Yield 79%. Melting point: 102-103° C. (methanol).

reactant | 3-(4-isopropyl-2-methoxyphenyl)-4,6,7-trimethyl-1-benzofuran | C(C)(C)C1=CC(=C(C=C1)C1=COC2=C1C(=CC(=C2C)C)C)OC | C21H24O2
solvent | methanol | CO | CH4O
product | 3-(4-Isopropyl-2-methoxyphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran | Yield 79% | C(C)(C)C1=CC(=C(C=C1)C1COC2=C1C(=CC(=C2C)C)C)OC | C21H26O2
